US04616086
Methyl 4-[1-(4-chlorobenzoyl)-piperazin-4-ylmethyl]-benzoate
To a solution of 15.3 g. (50 mmole) methyl 4-(piperazin-1-ylmethyl)-benzoate and 175 ml. anhydrous pyridine, there is added dropwise, at 0°-5° C., 8.7 g. (50 mmole) 4-chlorobenzoyl chloride and the reaction mixture kept for a further hour at 0° to 5° C., then overnight at 20° C. The reaction mixture is stirred into ice water and the precipitated product is filtered off with suction, washed with water and dried to give 18.5 g. (quantitative) of the desired product; m.p. 134°-135° C.

reactant | methyl 4-(piperazin-1-ylmethyl)-benzoate | 50 mmole | N1(CCNCC1)CC1=CC=C(C(=O)OC)C=C1 | C13H18N2O2
reactant | 4-chlorobenzoyl chloride | 50 mmole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 4-[1-(4-chlorobenzoyl)-piperazin-4-ylmethyl]-benzoate | ClC1=CC=C(C(=O)N2CCN(CC2)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C20H21ClN2O3
